US04447434
5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
from 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 4-pyridioacetic acid chloride hydrochloride via 5,10-dihydro-5-[(4-pyridinyl)acetyl]-11H-dibenzo[b,e]-[1,4]diazepin-11-one and 5,10-dihydro-5-[(4-pyridinyl)acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one methoiodide.

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | 5,10-dihydro-5-[(4-pyridinyl)acetyl]-11H-dibenzo[b,e]-[1,4]diazepin-11-one | N1=CC=C(C=C1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C20H15N3O2
product | 5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CC=C(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C21H21N3O2
